US04725597
A mixture of 26.4 g of 4-(4-chlorophenyl)butyl chloride, 86.1 g of anhydrous piperazine and 250 ml of reagent ethanol was refluxed overnight. Solvent was evaporated from the product and the residue was chromatographed twice on silica with the eluant being CH2Cl2 /CH3OH/ammonium hydroxide (45:5:1). The first chromatography removed the bulk of the excess piperazine, the second provided 15.2 g of 1-[4-(4-chlorophenyl)butyl]piperazine as a colorless oil which solidified on standing (m.p. 139°-145° C.).

reactant | 4-(4-chlorophenyl)butyl chloride | 26.4 g | ClC1=CC=C(C=C1)CCCCCl | C10H12Cl2
reactant | piperazine | 86.1 g | N1CCNCC1 | C4H10N2
solvent | ethanol | C(C)O | C2H6O
product | 1-[4-(4-chlorophenyl)butyl]piperazine | 15.2 g | ClC1=CC=C(C=C1)CCCCN1CCNCC1 | C14H21ClN2
